* END MODEL REF5045
* REF5050
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: REF5050
* Date: 13MAY2011
* Model Type: ALL IN ONE
* Simulator: TINA
* Simulator Version: 9.1.30.94 SF-TI
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS410E –JUNE 2007–REVISED JUNE 2010
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* BEGIN MODEL REF5050
* BEGIN NOTES
* MODEL FEATURES INCLUDE OUTPUT VOLTAGE, LINE REGULATION,
* LOAD REGULATION, PSRR VS FREQUENCY, OUTPUT IMPEDANCE,
* QUIESCENT CURRENT VS TEMPERATURE AND VOLTAGE, LINE
* TRANSIENT RESPONSE, LOAD TRANSIENT RESPONSE, OUTPUT
* CURRENT FLOWING THROUGH SUPPLY, OUTPUT CURRENT LIMIT,
* START-UP, START-UP SETTLING TIME, TOTAL OUTPUT VOLTAGE
* NOISE 0.1 TO 10 HZ, DROPOUT VOLTAGE VS CURRENT AND
* TEMPERATURE, TRIM PIN TRIM FUNCTION, TRIM PIN NOISE
* REDUCTION FUNCTION, INITIAL ACCURACY AND OUTPUT VOLTAGE
* TEMPCO (SAME BASIC SHAPE AS DATA SHEET) FOR BOTH STANDARD
* AND A GRADE (SEE MODEL FILE FOR NOTES CONCERNING TEXT
* MODIFICATIONS TO GO FROM A GRADE TO STANDARD GRADE),
* TEMPERATURE OUTPUT, AND TEMPERATURE OUTPUT OUTPUT
* IMPEDANCE.
* MODEL TEMP RANGE IS -55 TO +125 DEG C.
* NOTE THAT THE MODEL IS FUNCTIONAL OVER THIS RANGE BUT NOT
* ALL PARAMETERS TRACK THOSE OF THE REAL PART.
* NOTE THAT PSRR VS FREQ IS ACCURATE FOR DC AND
* LOW FREQ BUT DOES NOT MATCH THE DATA SHEET AT
* HIGH FREQUENCIES
* BEGIN MODEL PROGRAMMING NOTES
* MODEL MAY BE PROGRAMMED FOR EITHER STANDARD OR A GRADE
* VIA UN-COMMENTING OF TEXT LINES FOUND NEAR THE TOP OF
* THE MODEL LISTING (SEE BELOW) ONLY ONE GROUP SHOULD BE
* UN-COMMENTED AT ANY ONE TIME.
* END MODEL PROGRAMMING NOTES
* END NOTES
* PINOUT ORDER VIN TEMP GND TRIM VO
* PINOUT ORDER  2    3   4    5   6
*
.SUBCKT REF5050 2 3 4 5 6
* UN-COMMENT GROUP OF FOUR LINES
* BELOW FOR STANDARD GRADE
* START STANDARD GRADE
*R340 29 23 44.387E3
*V152 121 0 1599.46
*E42 119 0 116 0 1.25E3
*V154 117 120 300
* END STANDARD GRADE
* UN-COMMENT GROUP OF FOUR LINES
* BELOW FOR A GRADE
* START A GRADE
R340 29 23 44.36117E3
V152 121 0 1199.46
E42 119 0 116 0 1E3
V154 117 120 0
* END A GRADE
R14 0 6 1E12
Q22 7 8 9 Q
R81 10 11 2
R82 12 11 2
R83 8 13 1E3
R84 14 15 1E3
R85 16 2 6
R86 4 17 6
R87 18 19 1E6
R88 20 21 6
R89 9 22 6
D7 23 2 DD
D8 4 23 DD
D9 24 0 DIN
D10 25 0 DIN
I27 0 24 0.1E-3
I28 0 25 0.1E-3
E4 9 0 4 0 1
E5 21 0 2 0 1
D11 26 0 DVN
D12 27 0 DVN
I29 0 26 0.2E-6
I30 0 27 0.2E-6
E6 28 29 26 27 0.09
G4 30 29 24 25 2.8E-17
R90 31 32 14E3
E7 33 0 21 0 1
E8 34 0 9 0 1
E9 35 0 36 0 1
R91 33 37 1E6
R92 34 38 1E6
R93 35 39 1E6
R94 0 37 100
R95 0 38 100
R96 0 39 100
E12 40 31 39 0 0.15E-6
R97 41 36 1E3
R98 36 42 1E3
C27 33 37 1E-12
C28 34 38 1E-12
C29 35 39 1E-12
E13 43 40 38 0 0.15E-6
E14 44 43 37 0 6E-4
E16 45 9 21 9 0.5
D13 46 21 DD
D14 9 47 DD
M3 48 49 17 17 NOUT L=3U W=1250U
M4 50 51 16 16 POUT L=3U W=1250U
M5 52 52 20 20 POUT L=3U W=1250U
M6 53 54 10 10 HVP L=3U W=800U
M7 55 56 12 12 HVP L=3U W=800U
M10 57 57 22 22 NOUT L=3U W=1250U
R99 58 51 100
R100 59 49 100
G5 18 45 60 45 2E-4
R101 45 18 5.2E8
C30 19 61 3.5E-12
R102 9 53 2.05E3
R103 9 55 2.05E3
C31 53 55 0.4E-12
C32 30 0 2E-12
C33 56 0 2E-12
D15 49 7 DD
D16 62 51 DD
Q23 62 15 21 QP
V20 30 54 0
M18 63 64 65 65 HVN L=3U W=800U
R104 66 65 2
M19 67 56 68 68 HVN L=3U W=800U
R105 66 68 2
R106 63 21 2.05E3
R107 67 21 2.05E3
C34 63 67 0.4E-12
V21 54 64 0
M20 69 70 71 71 PIN L=6U W=500U
M21 72 73 21 21 PIN L=6U W=500U
V22 21 70 1
M23 66 69 9 9 NIN L=6U W=500U
M24 69 69 9 9 NIN L=6U W=500U
G8 18 45 74 45 2E-4
E19 42 0 30 9 1
E20 41 0 29 9 1
M25 73 73 21 21 PIN L=6U W=500U
I31 73 9 400E-6
V23 72 11 0
R108 75 50 35
R109 48 76 35
J3 21 30 21 JC
J4 21 56 21 JC
J5 56 9 56 JC
J6 30 9 30 JC
C35 30 56 2E-12
E21 77 45 67 63 1
R110 77 74 1E2
C36 74 45 1E-12
E22 78 45 55 53 1
R111 78 60 1E2
C37 60 45 1E-12
G9 79 45 18 45 -1E-3
G10 45 80 18 45 1E-3
G11 45 81 57 9 1E-3
G12 82 45 21 52 1E-3
D19 82 79 DD
D20 80 81 DD
R112 79 82 1E11
R113 81 80 1E11
R114 82 21 1E3
R115 9 81 1E3
E25 21 58 21 82 1
E26 59 9 81 9 1
R116 80 45 1E9
R117 81 45 1E9
R118 45 82 1E9
R119 45 79 1E9
C38 51 50 70E-15
C39 48 49 70E-15
R120 4 2 9E7
I32 0 83 1E-3
D22 83 0 DD
V26 83 84 0.655
R121 0 84 1E6
I33 2 4 713E-6
I34 30 0 1E-12
I35 56 0 1E-12
R122 71 72 6.5E3
E27 75 23 85 0 0.08E-6
E28 23 76 85 0 0.08E-6
V27 84 85 0.35
R125 18 61 1E12
E29 61 0 23 0 1
E30 13 9 17 4 6.5
E31 21 14 2 16 6.5
R126 86 87 1.6E6
M26 86 88 9 9 NSW L=3U W=50U
E32 32 9 86 9 1
E33 88 9 89 90 100
R127 90 21 1E6
C41 90 9 23E-12
V28 89 9 1.78
C42 86 9 1E-12
M27 91 92 9 9 NSW L=3U W=50U
E35 92 9 93 94 100
R128 94 21 1E6
C43 94 9 60E-12
V30 93 9 1.78
C44 91 9 1E-12
R130 95 91 1E6
M29 96 92 9 9 NSW L=3U W=50U
R132 96 95 1E6
V31 95 9 1
G15 52 57 96 9 1E-6
E38 30 44 84 0 1E-6
G57 2 4 84 0 -9.6E-4
R321 44 30 1E9
R322 43 44 1E9
R323 40 43 1E9
R324 31 40 1E9
R325 9 32 1E9
R326 9 92 1E9
R327 9 93 1E9
R328 9 89 1E9
R329 45 60 1E9
R330 45 74 1E9
R332 0 85 1E9
E39 56 28 97 0 0.83
R333 28 56 1E9
R334 29 28 1E9
R335 0 97 1E6
R336 0 97 1E6
V149 46 18 0
V150 18 47 0
R337 9 88 1E9
G58 73 9 91 95 -0.5E-6
R341 9 29 14E3
C46 29 98 5E-12
R342 98 23 1.5E3
C47 18 61 0.25E-12
R343 23 6 0.044
Q24 99 100 0 QA
I36 0 101 1E-3
R344 0 102 1.5E3
Q25 103 99 102 Q
Q26 104 103 0 Q
R345 99 105 193
R346 103 101 13.5E3
R347 105 101 6E3
Q27 104 106 107 QP
Q28 106 99 108 Q
Q29 106 106 109 QP
R348 0 108 2E3
R349 100 105 2E2
Q30 110 104 111 QP
Q31 110 99 112 Q
R350 0 112 1.1E3
Q32 111 110 0 Q
R351 110 113 3E3
C48 111 113 30E-12
R352 111 101 10
R353 109 101 1.5E3
R354 107 101 1.5E3
E40 114 0 101 0 1
R355 0 114 1E4
V151 115 114 6.15515
E41 116 0 115 0 1.64E-1
R356 0 116 1E4
R357 0 115 1E9
D40 117 118 DD
R358 119 117 1E3
R359 0 117 1E9
E43 87 9 120 0 1E-3
R360 9 87 1E4
D41 122 0 DD
I37 0 122 1E-3
V153 122 123 0.65
R361 0 123 1E8
E44 118 121 123 0 -1
R362 0 119 1E12
R363 0 122 1E12
R364 0 123 1E12
R365 0 116 1E12
R366 0 120 1E12
R367 0 118 1E12
R368 0 121 1E12
I38 0 124 1E-3
D42 124 0 DD
V155 124 125 0.655
R369 0 125 1E6
V156 125 126 0.38708
R370 0 126 1E9
E45 127 9 126 0 -1.4859
R371 9 3 1E12
R372 3 127 60E3
R373 0 125 1E6
R374 0 126 1E9
R375 31 32 15.184E3
R376 31 5 1E3
R377 9 5 1E12
.MODEL DVN D KF=1.05E-16 IS=1E-16
.MODEL JC NJF IS=1E-18
.MODEL DIN D
.MODEL POUT PMOS KP=60U VTO=-0.7
.MODEL NOUT NMOS KP=60U VTO=0.7
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.MODEL NSW NMOS KP=200U VTO=0.7 IS=1E-18
.MODEL HVP PMOS KP=2U VTO=-0.7
.MODEL HVN NMOS KP=2U VTO=0.7
.MODEL DD D
.MODEL Q NPN
.MODEL QA NPN IS=1.45E-17
.MODEL QP PNP
.MODEL DL D IS=0.95E-11 N=1.55 XTI=1.5
.ENDS
